US07977340B2
Step 1. 5-Pyridin-3-yl-7-pyridin-2-yl-benzothiazol-2-ylamine
1-Ethyl-3-(5-pyridin-3-yl-7-pyridin-2-yl-benzothiazol-2-yl)-urea (0.19 g, 0.53 mmol) in DMF (10 mL), was heated at 120° C. for 10 h in pressure vessel. After the completion of the reaction (TLC monitoring), DMF was distilled off, added water and extracted with ethyl acetate. The crude solid (0.14 g, 90%) was used as such for the next step.

reactant | 1-Ethyl-3-(5-pyridin-3-yl-7-pyridin-2-yl-benzothiazol-2-yl)-urea | 0.53 mmol, 0.19 g | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C2=NC=CC=C2)C=2C=NC=CC2 | C20H17N5OS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Pyridin-3-yl-7-pyridin-2-yl-benzothiazol-2-ylamine | N1=CC(=CC=C1)C=1C=C(C2=C(N=C(S2)N)C1)C1=NC=CC=C1 | C17H12N4S
